US03935209
3.5 G. of 2-amino-1-nitro-4-(pyrimidin-2-ylthio)benzene is treated with 16 g. stannous chloride in 16 ml. concentrated hydrochloric acid on the steam bath for 30 minutes. The mixture is cooled, treated with an excess of potassium bicarbonate, chloroform, and filtered. The chloroform layer is dried and stripped yielding 1,2-diamino-4-(pyrimidin-2-ylthio)benzene which may be recrystallized from benzene.

reactant | 2-amino-1-nitro-4-(pyrimidin-2-ylthio)benzene | NC1=C(C=CC(=C1)SC1=NC=CC=N1)[N+](=O)[O-] | C10H8N4O2S
reactant | hydrochloric acid | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2-diamino-4-(pyrimidin-2-ylthio)benzene | NC1=C(C=C(C=C1)SC1=NC=CC=N1)N | C10H10N4S
